US05225402
1-[1-(4-Hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (500 mg), prenyl bromide (0.5 ml) and 1,8-diazabicyclo[5.4.0]-undecene-7 (0.65 ml) are dissolved in isopropanol (10 ml) and the mixture is refluxed with heating for 4 hours. The solvent is distilled off under reduced pressure and the residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=2:1) to give 1-{1-[4-(2-isopentenyloxy)benzoyl]-4-piperidinyl} -3,4-dihydrocarbostyril (0.159 g).

reactant | 1-[1-(4-Hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 500 mg | OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C21H22N2O3
reactant | prenyl bromide | 0.5 ml | C(C=C(C)C)Br | C5H9Br
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 1-{1-[4-(2-isopentenyloxy)benzoyl]-4-piperidinyl} -3,4-dihydrocarbostyril | 0.159 g | C(C=C(C)C)OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H30N2O3
